US07723333B2
2,6-Dimethylphenyl 4-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]butanoate
2,6-Dimethylphenyl 4-aminobutanoate hydrochloride (80.4 mg, 0.33 mmol) and 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (89.9 mg, 0.91 mmol) were dissolved in a mixture of MeCN/DMF (4:1, 5 ml, dry). TEA (0.134 ml) was added and the reaction mixture was stirred at rt for 15 h. Diethyl ether (30 ml) was added and the resulting mixture was extracted with water (2×10 ml). The organic layer was dried (MgSO4), evaporated and the residue was purified by column chromatography on silica, using n-heptane/EtOAc (7:3) as eluent. The obtained product was further purified by re-chromatography, using the same conditions as before, to give the title compound (17 mg, 11%) as colorless oil, which solidified upon standing. 1H NMR (400 MHz, CDCl3): δ 1.73 (s, 9H), 1.78-1.85 (m, 2H), 2.06 (s, 6H), 2.38 (t, 2H), 2.96-3.01 (m, 2H), 5.37 (bt, 1H), 7.04 (s, 31), 7.42-7.44 (m, 3H), 7.50-7.52 (m, 2H).

reactant | 2,6-Dimethylphenyl 4-aminobutanoate hydrochloride | 0.33 mmol, 80.4 mg | Cl.NCCCC(=O)OC1=C(C=CC=C1C)C
reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.91 mmol, 89.9 mg | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | Diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | MeCN DMF | 5 ml | CC#N.CN(C)C=O
product | 2,6-Dimethylphenyl 4-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]butanoate | 17 mg, 11% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCC(=O)OC1=C(C=CC=C1C)C)C1=CC=CC=C1)(=O)=O | C25H30N2O5S
